Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[C:3](=[N:4]/[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:15],92.9094928091836
[N:1]([C:2]1=[N:3][N:7]1[H:10])([H:8])[H:9].[O:4]=[C:5]=[O:6]>>[N:1]([c:2]1[n:3][o:4][c:5](=[O:6])[n:7]1[H:10])([H:8])[H:9],42.17504833680469
[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[N:2]([H:11])[C@:3]12[O:4][C@@:6]([N:7]([H:10])[H:14])([H:13])[N:5]2[H:12],100.70613051624599
[O:1]([C:2](=[C:3]=[C:4]=[C:5]=[N:6][H:9])[H:8])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7],63.6516294703108
[C:1]1([H:8])([H:10])[C@:2]([O:3][H:12])([H:11])[C:4]([H:13])([H:14])[C@:5]([N:7]([H:15])[H:16])([H:9])[O:6]1>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],69.98170404822208
[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])/[N:5]=[C:6](/[N:7]([H:12])[H:14])[H:13])[H:11])([H:8])([H:9])[H:10],36.0839172126432
[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:7]([H:15])([H:17])[C:6][C@@:5]12[H:16])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@:5]1([C:6]#[C:7][H:17])[H:16])([H:8])([H:9])[H:10],38.0691453008203
[N:1]1([H:8])[C:2](=[O:3])[C@@:5]2([C:4]([H:9])([H:10])[H:12])[C@:6]1([H:11])[N:7]2[H:13]>>[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8],90.93398291949615
[O:1]([C:2](=[N:3])[N:6][C:5](=[N:4][H:8])[H:9])[H:7]>>[O:1]([c:2]1[n:3][n:4]([H:8])[c:5]([H:9])[n:6]1)[H:7],5.180835288332105
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8]>>[C:3]1([C:6]#[N:7])([H:11])[C:4]([H:8])=[C:5]1[H:12].[O:1]=[C:2]([H:9])[H:10],56.4793338240689
[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[C:3](=[C:4](\[O:5][C:6](=[O:7])[H:15])[H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],63.803001334253
[C:1]([O:2][C:5]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10].[C:3](=[C:4]([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],57.7594077183293
[C:4](=[O:5])([H:7])[H:8].[N:1](=[C:2]=[O:3])[H:6]>>[N:1]([C:2](=[O:3])[C:4](=[O:5])[H:8])([H:6])[H:7],64.09149369720899
[O:1]([C:2]([C:7](=[N:6][C:5](=[O+:4][C-:3]([H:10])[H:11])[H:12])[H:13])([H:9])[H:14])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])=[N:6][C:7]1([H:13])[H:14])[H:8],40.094829898632305
[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([H:11])[H:12])([H:8])([H:9])[H:10].[C:3](=[O:4])=[C:5]([C:6]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18],67.9032485766703
[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C@@:4]1([C:5]([H:16])([H:17])[H:18])[C:6][N:7]1[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],91.5457994003245
[O:1]1[C@@:2]2([H:8])[N:3]([H:9])[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C:6]1=[C:7]2[H:14]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],18.98113634712238
[N-:1]=[C:2]=[C+:3][C:4]([C:5]([O:6][H:7])([H:10])[H:11])([H:8])[H:9]>>[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1,2.9950237278449023
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C@:2]([O:3][H:12])([H:11])[C:4]([H:13])([H:14])[C@:5]([N:7]([H:15])[H:16])([H:9])[O:6]1,95.32852400771549
[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3](/[O:4][H:11])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])([H:8])([H:9])[H:10],39.4029870424599
[C:6](#[C:7][H:10])[H:9].[N+:1](#[C:2][H:8])[O-:5].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],59.135564508705784
[C:1]([O:2]/[C:3]([O:4][H:15])=[C:5](\[C:6]([H:12])([H:13])[H:14])[O:7][H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10],34.0146013785876
[C:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([H:8])([H:10])[H:11])([O+:4]=[C-:3][C:5]([O:6][H:14])([H:12])[H:13])([H:7])[H:9],102.971725674494
[C:1]([C@:3]1([H:11])[C:2]([H:10])=[C:5]([H:12])[O:6][O:4]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[H:11])([C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],10.25489168963189
